US08710255B2
To a solution of 3 g (S)-methyl 3-(dibenzylamino)-4-oxo-4-(2,4,5-trifluorophenyl)butanoate in 100 ml ethanol, was added 0.5 g of 10% Pd/C under an atmosphere of nitrogen. The atmosphere of nitrogen was replace with an atmosphere of hydrogen, and the reaction was carried out at 25° C. for 5 h. After completion of the reaction, the reaction mixture was filtered through diatomite. The filtrate was concentrated, and the pH was adjusted to 5˜6 by addition of 10% hydrochloric acid. The aqueous layer was washed with ethyl acetate, and then concentrated to obtain 1.47 g (R)-3-amino-4-(2,4,5-trifluorophenyl)butanoic acid as white solid, with a yield of 93.2%.

reactant | (S)-methyl 3-(dibenzylamino)-4-oxo-4-(2,4,5-trifluorophenyl)butanoate | 3 g | C(C1=CC=CC=C1)N([C@@H](CC(=O)OC)C(C1=C(C=C(C(=C1)F)F)F)=O)CC1=CC=CC=C1 | C25H22F3NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | (R)-3-amino-4-(2,4,5-trifluorophenyl)butanoic acid | 1.47 g, yield of 93.2% | N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C10H10F3NO2
